US08975254B2
N—((R)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(3-hydroxybutan-2-ylamino)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from 2-(3-hydroxybutan-2-ylamino)thiazole-4-carboxylic acid (1.35 g, 6.24 mmol) and (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (1.356 g, 5.20 mmol). The product was purified by Flash-chromatography. Yield 14.45%. 1H-NMR (400 MHz; DMSO-d6): δ 0.98-1.19 (m, 9H), 3.57-3.72 (m, 2H), 4.23-4.47 (m, 3H), 4.67 (d, 1H), 6.94-6.97 (m, 1H), 7.11-7.14 (m, 1H), 7.37-7.53 (m, 1H), 7.69-7.80 (m, 1H), 7.80-7.85 (m, 1H), 7.90-8.00 (m, 2H), 8.06-8.09 (m, 1H).

reactant | 2-(3-hydroxybutan-2-ylamino)thiazole-4-carboxylic acid | 6.24 mmol, 1.35 g | OC(C(C)NC=1SC=C(N1)C(=O)O)C | C8H12N2O3S
reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 5.20 mmol, 1.356 g | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | N—((R)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(3-hydroxybutan-2-ylamino)thiazole-4-carboxamide | Yield 14.45% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(=O)C=1N=C(SC1)NC(C)C(C)O | C21H23ClN6O2S
